US03966942
Alternatively, a mixture of 6 g. (0.029 m.) of 3-phenyl-rhodanine, 15 g. (0.063 m.) of triethylorthophenylacetate and 15 ml. of n-butyl ether is heated to reflux and then distillate is removed until the temperature of the mixture reaches 150°C. After heating at this temperature for one hour, an additional 5 g. of orthoester is added and heating is continued for 30 minutes. To the reaction mixture is added 5 ml. of acetic anhydride and heating is continued for 5 minutes. The resulting mixture is concentrated in vacuo and the residue is eluted through a column of silica gel with 2:1-cyclohexane-benzene. The product from the first eluates give 5-(1'-ethoxy-2'-phenylethylidene)-3-phenylrhodanine, m.p. 119°-121°C. Alkaline hydrolysis as described above of this intermediate furnishes the identical hydroxy derivative.

reactant | 3-phenyl-rhodanine | C1(=CC=CC=C1)N1C(SCC1=O)=S | C9H7NOS2
reactant | n-butyl ether | C(CCC)OCCCC | C8H18O
product | 5-(1'-ethoxy-2'-phenylethylidene)-3-phenylrhodanine | C(C)OC(CC1=CC=CC=C1)=C1C(N(C(S1)=S)C1=CC=CC=C1)=O | C19H17NO2S2
